US04338333
N-[2-(4-(3-Carbomethoxyprop-2-eneoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(4-chlorophenyl) ethanamine
A mixture of 1-(4-(3-carbomethoxyprop-2-eneoxy) phenyl) propan-2-one (2.27 g) and 2-hydroxy-2-(4-chlorophenyl) ethanamine (1.57 g) in benzene (100 ml) was boiled under reflux with azeotropic removal of water using a Dean and Stark trap. The solution was evaporated, the residue dissolved in methanol (50 ml), cooled in ice and sodium borohydride added. The solution was stirred for 1 hour at 0° C., the methanol evaporated, and the residue partitioned between water and ethyl acetate. The ethyl acetate layer was dried (MgSO4) and evaporated to give a cream solid (3.1 g) which was crystallised from ethyl acetate m.p. 120°-122°. as a 0:100 mixture of diastereoisomers. Recrystallisation of the mother liquors from hexane gave a 70:30 mixture of diastereoisomers, m.p. 55°-65°.

reactant | 1-(4-(3-carbomethoxyprop-2-eneoxy) phenyl) propan-2-one | 2.27 g | C(=O)(OC)C=CCOC1=CC=C(C=C1)CC(C)=O | C14H16O4
reactant | 2-hydroxy-2-(4-chlorophenyl) ethanamine | 1.57 g | OC(CN)C1=CC=C(C=C1)Cl | C8H10ClNO
reactant | water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-[2-(4-(3-Carbomethoxyprop-2-eneoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(4-chlorophenyl) ethanamine | 3.1 g | C(=O)(OC)C=CCOC1=CC=C(C=C1)CC(C)NCC(C1=CC=C(C=C1)Cl)O | C22H26ClNO4
